US03953500
To 6.0 g. of 1-cyanoindan-4-carboxylic acid is added 96 ml. of thionyl chloride and the mixture is allowed to stand at room temperature for 15 hours. The excess thionyl chloride is removed under reduced pressure. To 1-cyanoindan-4-carbonyl chloride, which is thus obtained as the residue, are added 50 ml. of anisole, 50 ml. of methylene chloride and 6.0 g. of anhydrous aluminum chloride powder. The mixture is stirred at room temperature for 90 minutes. After cooling, the product is poured into ice-hydrochloric acid and extracted with ether. The extract is washed with 1N hydrochloric acid and a saturated aqueous solution of sodium chloride, followed by drying. The solvent is distilled under reduced pressure and the residue obtained is purified by chromatography on a column of silica gel (700 g. silica gel; eluted with chloroform). The procedure gives 4-(p-methoxybenzoyl)indan-1-carbonitrile as crystals melting at 109°-112°C.

reactant | 1-cyanoindan-4-carboxylic acid | C(#N)C1CCC=2C(=CC=CC12)C(=O)O | C11H9NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 1-cyanoindan-4-carbonyl chloride | C(#N)C1CCC=2C(=CC=CC12)C(=O)Cl | C11H8ClNO
